US04839350
Production of 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (syn-isomer, trans-isomer)
7-[2-Methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid sodium salt (syn-isomer, trans-isomer) (0.03 g, 0.06 mmol) was dissolved in dimethylformamide (3 ml). To the resultant solution was added a solution in dimethylformamide (1 ml) of iodomethyl pivalate (as prepared by reacting chloromethyl pivalate (0.090 g, 0.60 mmol) with sodium iodide (0.090 g, 0.06 mmol) in acetone) under ice-cooling, followed by stirring the resultant mixture for 10 minutes. The reaction solution as obtained were admixed with ice-water (20 ml) and ethyl acetate (20 ml), stirred thoroughly and then allowed to stand until the mixture separated into aqueous phase and organic phase. The organic phase was separated from the aqueous phase and washed twice with water (10 ml) and then with aqueous saturated NaCl solution (10 ml). The organic phase as washed was subsequently dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified chromatographically on a column of silica-gel (Wako-gel C-300) (5 g) as developed with ethyl acetate. The titled compound was thus obtained (yield 0.025 g, 67%).

reactant | 7-[2-Methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid sodium salt | 0.06 mmol, 0.03 g | [Na+].CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)[O-])C1=O)C=1N=C(SC1)N
reactant | iodomethyl pivalate | 0.60 mmol, 0.090 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | C(C(C)(C)C)(=O)OCOC(=O)C1=C(CS[C@H]2N1C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O)C=CC2=C(N=CS2)C | C25H28N6O7S3
